US07524882B2
Step 2. Trifluoromethanesulfonic acid 2-chloro-4-trifluoromethoxy-phenyl ester
To a solution of 2-chloro-4-trifluoromethoxyphenol (0.21 g, 1.0 mmol) and ethyldiisopropylamine (0.27 g, 2.0 mmol) in dichloromethane (10 mL) cooled at −78° C. was added dropwise trifluoromethanesulfonic anhydride (0.31 g, 1.1 mmol). The reaction was warmed to 25° C. and concentrated. The residue was triturate with diethyl ether and filtered through a pad of silica gel. Concentration of the filtrate gave the title compound, which was used directly for the coupling reaction in step 3.

reactant | 2-chloro-4-trifluoromethoxyphenol | 1.0 mmol, 0.21 g | ClC1=C(C=CC(=C1)OC(F)(F)F)O | C7H4ClF3O2
reactant | ethyldiisopropylamine | 2.0 mmol, 0.27 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 1.1 mmol, 0.31 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Trifluoromethanesulfonic acid 2-chloro-4-trifluoromethoxy-phenyl ester | ClC1=C(C=CC(=C1)OC(F)(F)F)OS(=O)(=O)C(F)(F)F | C8H3ClF6O4S
